US07214673B2
(S)-10-{3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Following a method similar as described in Example 484, using 2-trifluoromethyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione (4.025 g, 13.36 mmol) and methyl trifluoromethanesulfonate (2.27 mL, 20.0 mmol), to formed the methylated intermediate. Take 1.38 g of this intermediate (3.0 mmol), combine and then (S)-2-[2-(3-fluoro-phenyl)-ethyl]-piperazine (0.62 g, 3.0 mmol), followed by two chromatographic purifications, the first with a pre-packed silica gel column, eluting with a gradient of a 3.5% solution of 2M ammonia in methanol, in dichloromethane (0–100% in dichloromethane); and the second with a pre-packed cation exchange column, loading with methanol, and then eluting the product with increasing concentrations of 2M ammonia in methanol, in dichloromethane gives the title compound (0.754 g): mass spectrum (APCI+, m/e): 476 (M+1); 1H NMR (300 MHz, DMSO-d6), δ (ppm): 8.45 (s, 1H), 7.33–7.23 (m, 1H), 7.05–6.80 (m, 6H), 6.74–6.68 (m, 1H), 4.06–3.80 (br. m, 2.94–2.76 (m, 2H), 2.74–2.52 (m, 5H), 2.35 (br. s, 1H), 1.67–1.49 (m, 2H).

reactant | 2-trifluoromethyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo[f]azulene-10-thione | 13.36 mmol, 4.025 g | FC(C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S)(F)F | C11H6F3N3S2
reactant | methyl trifluoromethanesulfonate | 20.0 mmol, 2.27 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | (S)-2-[2-(3-fluoro-phenyl)-ethyl]-piperazine | 3.0 mmol, 0.62 g | FC=1C=C(C=CC1)CC[C@@H]1NCCNC1 | C12H17FN2
product | (S)-10-{3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.754 g | FC=1C=C(C=CC1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C23H21F4N5S
